US05576313
Step 1: Preparation of N-t-butoxycarbonyl-S-trityl-L-Cysteine-4-acetoxy-4-benzylpiperidine
To a solution of N-t-butoxycarbonyl-S-trityl-L-Cysteinyl4-benzyl-4-piperidinol (100 mg, 0.16 mmol) in dry pyridine (2 ml), was added 4-dimethylaminopyridine (25 mg, 0.20 mmol) and acetic anhydride (0.030 ml, 0.32 mmol). The solution was heated to 50° C. (oil bath temp.) for 2 days and then allowed to cool to room temp. The reaction mixture was concentrated in vacuo and the residue partitioned between EtOAc and brine. The EtOAc layer was dried (MgSO4) and concentrated in vacuo to a brown oil. This material was purified by column chromatography on silica with 18-20% EtOAc/hexane as eluent. The appropriate fractions were combined and concentrated in vacuo to afford the product as a glassy solid.

reactant | N-t-butoxycarbonyl-S-trityl-L-Cysteinyl4-benzyl-4-piperidinol | 0.16 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C39H44N2O4S
reactant | acetic anhydride | 0.32 mmol, 0.030 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.20 mmol, 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-t-butoxycarbonyl-S-trityl-L-Cysteine 4-acetoxy-4-benzylpiperidine | C(C)(C)(C)OC(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.C(C)(=O)OC1(CCNCC1)CC1=CC=CC=C1 | InChI=1S/C27H29NO4S.C14H19NO2/c1-26(2,3)32-25(31)28-23(24(29)30)19-33-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-12(16)17-14(7-9-15-10-8-14)11-13-5-3-2-4-6-13/h4-18,23H,19H2,1-3H3,(H,28,31)(H,29,30);2-6,15H,7-11H2,1H3/t23-;/m0./s1
